US07094789B2
(Step A) Synthesis of N-(tert-butoxycarbonyl)-N′-[(1-chloro-5-isoquinolyl)sulfonyl]-1,3-propylenediamine (Intermediate 12)
According to the method of Example 1, Step A, a solution of N-(3-aminopropyl)carbamic acid tert-butyl ester (383 mg) and triethylamine (335 μl) in dichloromethane (3 ml) was added with a solution of (1-chloro-5-isoquinolyl)sulfonyl chloride (524 mg, prepared from (1-chloro-5-isoquinolyl)sulfonyl chloride hydrochloride according to the method of Japanese Patent Unexamined Publication (Kokai) No. 63-2980) in dichloromethane (3 ml) with stirring and ice cooling and stirred at room temperature for 20 hours. The reaction mixture was successively washed with saturated aqueous sodium hydrogencarbonate twice and with saturated brine. The organic layer was dried over anhydrous sodium sulfate (Wako Pure Chemical Industries), and then the solvent was evaporated under reduced pressure. Then, the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1) to obtain the title compound (640 mg).

reactant | N-(3-aminopropyl)carbamic acid tert-butyl ester | 383 mg | C(C)(C)(C)OC(NCCCN)=O | C8H18N2O2
reactant | triethylamine | 335 μl | C(C)N(CC)CC | C6H15N
reactant | (1-chloro-5-isoquinolyl)sulfonyl chloride | ClC1=NC=CC2=C(C=CC=C12)S(=O)(=O)Cl | C9H5Cl2NO2S
reactant | (1-chloro-5-isoquinolyl)sulfonyl chloride hydrochloride | Cl.ClC1=NC=CC2=C(C=CC=C12)S(=O)(=O)Cl
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | N-(tert-butoxycarbonyl)-N′-[(1-chloro-5-isoquinolyl)sulfonyl]-1,3-propylenediamine | 640 mg | C(C)(C)(C)OC(=O)NCCCNS(=O)(=O)C1=C2C=CN=C(C2=CC=C1)Cl | C17H22ClN3O4S
